US04871730
To a solution of N,N-diisopropylamine (0.65 ml) in tetrahydrofuran (7 ml) was added 1.55M n-butyllithium in n-hexane (2.88 ml) at -20~-15° C. The mixture was stirred for 30 minutes at 0° C. To the solution was added a solution of 2-ethoxy-1,3-oxathiolane (642 mg) in tetrahydrofuran (2 ml) at -60° C., and the resultant mixture was stirred for 30 minutes at the same temperature. The solution was added to a solution of p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylate (syn isomer) (2 g) in tetrahydrofuran (30 ml ) at -62° C. After the mixture was stirred for 15 minutes at the same temperature, 1N hydrochloric acid (5 ml) was added thereto. The mixture was allowed to warm up till 0° C. and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and chloroform (1:2). The fractions containing the object compound were combined and concentrated in vacuo to give p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-vinylthio-3-cephem-4-carboxylate (syn isomer) (805 mg).

reactant | N,N-diisopropylamine | 0.65 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.55M | C(CCC)[Li]
reactant | 2-ethoxy-1,3-oxathiolane | 642 mg | C(C)OC1OCCS1 | C5H10O2S
reactant | p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylate | 2 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC | C21H21N7O10S3
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 2.88 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-vinylthio-3-cephem-4-carboxylate | 805 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC | C22H21N7O6S3
